* C:\Users\DonghoonPark\Desktop\ltspice_pytool\test\01_RC_circuit\01_RC_circuit.asc
V1 source 0 SINE(0 10 10e3)
R1 cap source 100
C1 cap 0 1µ
.tran 1m
.backanno
.end
